US07943774B2
2-[5-Methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]-1-{4-[4-(4-phenylpentyl)-1,3-thiazol-2-yl]piperidin-1-yl}ethanone (I-80)
tert-Butyl 4-{4-[(1Z)-4-phenylpent-1-en-1-yl]-1,3-thiazol-2-yl}piperidine-1-carboxylate (IV-4, 1.00 g) is dissolved in methanol and, at 40° C., hydrogenated under an H2-pressure of 10 bar in the presence of Pd/C (10%) for 5 hours. Filtration and removal of the solvent under reduced pressure gives tert-butyl 4-[4-(4-phenylpentyl)-1,3-thiazol-2-yl]piperidine-1-carboxylate (1.00 g) as a colourless oil. This is deprotected analogously to Example II-2. This gives 850 mg of 4-[4-(4-phenylpentyl)-1,3-thiazol-2-yl]piperidine hydrochloride. 169 mg are then reacted analogously to Example I-81 with [5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetic acid (100 mg). After chromatographic purification, this gives 2-[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]-1-{4-[4-(4-phenylpentyl)-1,3-thiazol-2-yl]piperidin-1-yl}ethanone (180 mg) as a colourless oil.

reactant | 4-[4-(4-phenylpentyl)-1,3-thiazol-2-yl]piperidine hydrochloride | 850 mg | Cl.C1(=CC=CC=C1)C(CCCC=1N=C(SC1)C1CCNCC1)C
reactant | [5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetic acid | 100 mg | CC1=CC(=NN1CC(=O)O)C(F)(F)F | C7H7F3N2O2
product | 2-[5-Methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]-1-{4-[4-(4-phenylpentyl)-1,3-thiazol-2-yl]piperidin-1-yl}ethanone | CC1=CC(=NN1CC(=O)N1CCC(CC1)C=1SC=C(N1)CCCC(C)C1=CC=CC=C1)C(F)(F)F | C26H31F3N4OS
